US08071584B2
racemic-3-[(trans)-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-phenyl-1H-indole-7-carboxamide
(racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide (65 mg, 0.157 mmol) was placed in a microwave vial and dissolved in 1,4-dioxane (2 mL) and water (1.000 mL). Phenylboronic acid (19.17 mg, 0.157 mmol) and K2CO3 (65.2 mg, 0.472 mmol) were added. Argon was bubbled in the mixture for 10 min, and then PdCl2(dppf) (6.07 mg, 0.013 mmol) was added, and argon was bubbled another 10 min. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The crude was run through a thiol-SPE cartridge eluting with methanol (2 mL) and the treated solution was evaporated to remove the biggest part of dioxane and methanol. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was dried (MgSO4) and solvent removed in vacuo to give crude material which was dissolved in 1-2 mL of DMSO filtered through a syringe filter (Acrodisc CR 13 mm; 45 um PTFE filter), and run through the ammonium Gilson eluting with 35% to 90% organic in 15 min. The product was isolated to afford 17 mg of the title compound.

reactant | (racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide | 0.157 mmol, 65 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)[C@H]1C[C@@H](S(CC1)(=O)=O)C(C)C | C17H21BrN2O3S
reactant | Phenylboronic acid | 0.157 mmol, 19.17 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.472 mmol, 65.2 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.000 mL | O | H2O
solvent | DMSO | 1-2 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.013 mmol, 6.07 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | racemic-3-[(trans)-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-phenyl-1H-indole-7-carboxamide | 17 mg | CC(C)[C@@H]1S(CC[C@H](C1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)(=O)=O | C23H26N2O3S
